US08710043B2
A solution of (R)-methyl 1-(2-hydroxypropyl)-6-oxo-1,6-dihydropyridine-3-carboxylate (508 mg, 2.405 mmol) in 1,4-dioxane (12 mL) and MeOH (4.00 mL) was treated with aqueous sodium hydroxide, 5.0 M (0.962 mL, 4.81 mmol). The reaction was stirred at 23° C. After 20 h, the reaction was neutralized to pH=6.0 with 2 N HCl, and concentrated in vacuo. The residue was azeotroped with toluene (3×10 mL), suspended in a 1:1 MeOH:DCM solution (25 mL), and the white NaCl residue was removed by filtration. The filtrate was concentrated, affording (R)-1-(2-hydroxypropyl)-6-oxo-1,6-dihydropyridine-3-carboxylic acid as a white solid. MS (ESI pos. ion) m/z: 198.1 (M+1).

reactant | (R)-methyl 1-(2-hydroxypropyl)-6-oxo-1,6-dihydropyridine-3-carboxylate | 2.405 mmol, 508 mg | O[C@@H](CN1C=C(C=CC1=O)C(=O)OC)C | C10H13NO4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 4.00 mL | CO | CH4O
product | (R)-1-(2-hydroxypropyl)-6-oxo-1,6-dihydropyridine-3-carboxylic acid | O[C@@H](CN1C=C(C=CC1=O)C(=O)O)C | C9H11NO4
